US06166006
To a solution of 3-[1-(4-methylphenylsulfonyl)-piperidin-4-yl]-6,7,8,9-tetrahydro-5H-benzocyclohepten-5-one (3.25 g) in dimethyl carbonate (50 ml) was added at room temperature sodium methoxide (2.21 g), and the mixture was refluxed for 4.5 hours and cooled to room temperature. To the mixture was added 1N hydrochloric acid (100 ml), and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine and dried with magnesium sulfate. Under reduced pressure, the mixture was concentrated to give crude product (3.91 g). The resulting crude product was dissolved in THF (150 ml), and to the mixture was added at -40° C. a solution of sodium boro hydride (0.31 g) in methanol (10 ml). The mixture was stirred at -10 to -20° C. for 1 hour. To the mixture was added a solution of sodium boro hydride (0.31 g) in methanol (10 ml), and the mixture was stirred for 1.5 hours. To the mixture was added acetone (2 ml), and the mixture was stirred for 30 minutes. To the mixture was added water, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine and dried with magnesium sulfate. Under reduced pressure, the mixture was concentrated, and the residue was dissolved in THF (40 ml). To the mixture was added triethylamine (3.42 ml). To the mixture was added at 0° C. methanesulfonyl chloride (0.95 ml), and the mixture was stirred at 0° C. for 30 minutes and then at room temperature for 30 minutes. To the mixture was added 1,8-diazabicyclo[5,4,0]-7-undecene (3.7 ml), and the mixture was stirred for 14 hours. To the mixture was added, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine and dried with magnesium sulfate. Under reduced pressure, the mixture was concentrated, and the residue was purified with column chromatography (ethyl acetate/hexane=1:2) to give colorless crystals of methyl 4-[1-(4-methylphenylsulfonyl)piperidin-4-yl]-6,7-dihydro-5H-benzocyclo-heptene-8-carboxylate (2.01 g).

reactant | 3-[1-(4-methylphenylsulfonyl)-piperidin-4-yl]-6,7,8,9-tetrahydro-5H-benzocyclohepten-5-one | 3.25 g | CC1=CC=C(C=C1)S(=O)(=O)N1CCC(CC1)C1=CC2=C(CCCCC2=O)C=C1 | C23H27NO3S
reactant | sodium methoxide | 2.21 g | C[O-].[Na+]
reactant | hydrochloric acid | 1N, 100 ml | Cl | ClH
reactant | sodium boro hydride | 0.31 g | [BH4-].[Na+]
reactant | sodium boro hydride | 0.31 g | [BH4-].[Na+]
reactant | dimethyl carbonate | 50 ml | C(OC)(OC)=O | C3H6O3
solvent | THF | 150 ml | C1CCOC1 | C4H8O
solvent | methanol | 10 ml | CO | CH4O
solvent | methanol | 10 ml | CO | CH4O
solvent | water | O | H2O
solvent | acetone | 2 ml | CC(=O)C | C3H6O
product | methyl 4-[1-(4-methylphenylsulfonyl)piperidin-4-yl]-6,7-dihydro-5H-benzocyclo-heptene-8-carboxylate | 2.01 g | CC1=CC=C(C=C1)S(=O)(=O)N1CCC(CC1)C1=CC=CC=2C=C(CCCC21)C(=O)OC | C25H29NO4S
